US05624935
2-Hydroxymethyl-5-methoxy-3-methyl-3H-imidazo[4,5-b]pyridine
A solution of 2.20 g of 3-amino-6-methoxy-2-methylaminopyridine (prepared as described in Preparation 68) and 3.30 g of glycolic acid in 40 ml of toluene was heated under reflux for 4 hours. At the end of this time, the reaction mixture was poured into water, after which it was extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride and dried over anhydrous sodium sulfate, after which the solvent was removed by distillation under reduced pressure. The residue was purified by column chromatography through silica gel, using a 30:1 by volume mixture of ethyl acetate and methanol as the eluent, to give 620 mg of the title compound, melting at 138°-140° C.

reactant | 3-amino-6-methoxy-2-methylaminopyridine | 2.20 g | NC=1C(=NC(=CC1)OC)NC | C7H11N3O
reactant | glycolic acid | 3.30 g | C(CO)(=O)O | C2H4O3
reactant | water | O | H2O
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Hydroxymethyl-5-methoxy-3-methyl-3H-imidazo[4,5-b]pyridine | 620 mg | OCC1=NC=2C(=NC(=CC2)OC)N1C | C9H11N3O2
